US06004478
Preparation of trans-4-(trans-4-(2-(4-(2,2,2-trifluoroethoxy)phenyl)ethyl)cyclohexyl)-1-n-pentyl-1-silacyclohexane
The general procedure of Example 38 was repeated using 4-(t-butyldimethylsiloxy)benzyltriphenylphosphonium bromide, 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde, and 1-bromo-2,2,2-trifluoroethane, thereby obtaining the intended compound.

reactant | 4-(t-butyldimethylsiloxy)benzyltriphenylphosphonium bromide | [Br-].O([Si](C)(C)C(C)(C)C)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde | C(CCCC)[Si]1(CCC(CC1)C1CCC(CC1)C=O)C1=CC=CC=C1 | C23H36OSi
reactant | 1-bromo-2,2,2-trifluoroethane | BrCC(F)(F)F | C2H2BrF3
product | trans-4-(trans-4-(2-(4-(2,2,2-trifluoroethoxy)phenyl)ethyl)cyclohexyl)-1-n-pentyl-1-silacyclohexane | FC(COC1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCCCC)(F)F | C26H41F3OSi
